US09371281B2
To a solution of sodium hydroxide (64 mg, 1.6 mmol) and 50% aqueous hydroxyl amine (0.65 mL) was added 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester (58 mg, 0.2 mmol) dissolved in THF/MeOH (1 mL, 1:1). After stirring 4 hr at room temperature, the solution was diluted with water (4 mL) and the volatile solvents were removed in vacuo. The solution was then neutralized to pH=7-8 with 1N HCl and then subjected to HPLC purification to provide 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid hydroxyamide (32 mg, 50% yield). 1H NMR (400 MHz, DMSO) δ 11.05 (s, 1H), 8.83 (br s, 1H), 7.97 (s, 1H), 7.57 (dd, 1H, J=1.7, 8.6 Hz), 7.41 (d, 1H, J=8.6 Hz) 7.30 (m, 2H), 7.18 (s, 1H), 7.08 (m, 2H), 4.03 (s, 2H), 3.74 (s, 3H).

reactant | sodium hydroxide | 1.6 mmol, 64 mg | [OH-].[Na+]
reactant | hydroxyl amine | 0.65 mL | ON | H3NO
reactant | 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester | 0.2 mmol, 58 mg | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)F | C18H16FNO2
solvent | THF MeOH | 1 mL | C1CCOC1.CO
solvent | water | 4 mL | O | H2O
product | 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid hydroxyamide | 32 mg, 50% yield | ONC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)F | C17H15FN2O2
